US04070473
A solution of 20.1 g (0.1 m) of gamma-chloro-p-fluorobutyrophenone, 30 g (0.2 m) of 4-methyl-4-methoxy-piperidine and 0.1 g. of potassium iodide in 150 ml of toluene is heated in a glass autoclave for 15 hours at 100°-110° C. The KI and the 4-methyl-4-methoxy-piperidine hydrochloride formed in the reaction are separated by filtration and the solvent removed from the filtrate by evaporation under a vacuum on a steam bath. The obtained base is dissolved in ether and the hydrochloride is precipitated with alcoholic HCl. The reaction product is purified by recrystallization from ethanol-ether. Yield 22 g. Melting point 182° C.

reactant | gamma-chloro-p-fluorobutyrophenone | 20.1 g | ClCCCC(=O)C1=CC=C(C=C1)F | C10H10ClFO
reactant | 4-methyl-4-methoxy-piperidine | 30 g | CC1(CCNCC1)OC | C7H15NO
reactant | potassium iodide | [I-].[K+]
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 4-methyl-4-methoxy-piperidine hydrochloride | Cl.CC1(CCNCC1)OC | InChI=1S/C7H15NO.ClH/c1-7(9-2)3-5-8-6-4-7;/h8H,3-6H2,1-2H3;1H
